US06265575B1
Part B. 3-Methyl-4-[(1-pyrrolidinyl)methyl]benzoic Acid Hydrochloride
A solution of methyl 3-methyl-4-[(1-pyrrolidinyl)methyl]benzoate (16 g, 68.6 mmol) in 250 mL of 1 N HCl was heated at reflux overnight (13 hr). After cooling to ambient temperature, the aqueous solution was extracted with EtOAc (150 mL). The aqueous layer was concentrated by rotary evaporation to give 16.8 g (65.7 mmol; 96%) of the title acid as a white solid.

reactant | methyl 3-methyl-4-[(1-pyrrolidinyl)methyl]benzoate | 68.6 mmol, 16 g | CC=1C=C(C(=O)OC)C=CC1CN1CCCC1 | C14H19NO2
reactant | HCl | 1 N, 250 mL | Cl | ClH
product | 3-Methyl-4-[(1-pyrrolidinyl)methyl]benzoic Acid Hydrochloride | Cl.CC=1C=C(C(=O)O)C=CC1CN1CCCC1 | InChI=1S/C13H17NO2.ClH/c1-10-8-11(13(15)16)4-5-12(10)9-14-6-2-3-7-14;/h4-5,8H,2-3,6-7,9H2,1H3,(H,15,16);1H
